US07064124B2
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(tert-butoxycarbonylmethyloxy)benzoate
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate (1.09 g, 2.53 mmol) was dissolved in acetone (50 ml) and after adding thereto anhydrous sodium carbonate (0.420 g, 3.03 mmol) and tert-butyl bromoacetate (0.592 g, 3.03 mmol), the solution was refluxed under heating for 3 hours. The reaction solution was filtered, the filtrate was concentrated, and the obtained residue was purified by silica gel column chromatography (hexand:ethyl acetate=2:1) to obtain the titled compound (0.650 g, 1.33 mmol, 53%).

reactant | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate | 2.53 mmol, 1.09 g | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)O)C(=C(C1OC)OC)OC)C | C20H24O7
reactant | sodium carbonate | 3.03 mmol, 0.420 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl bromoacetate | 3.03 mmol, 0.592 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(tert-butoxycarbonylmethyloxy)benzoate | 1.33 mmol, 0.650 g, 53% | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)OCC(=O)OC(C)(C)C)C(=C(C1OC)OC)OC)C | C26H34O9
